US08022066B2
3-Bromo-5-tert-butyl-6-hydroxy-2-methyl-benzoic acid phenyl ester
From 3-bromo-5-tert-butyl-6-hydroxy-2-methyl-benzoic acid, phenol and phosphorus oxychloride in toluene; amber oil; 1H NMR (CDCl3): δ 11.10 (s, 1H), 7.64 (s, 1H), 7.50-7.42 (m, 2H), 7.36-7.28 (m, 1H), 7.22-7.17 (m, 2H), 2.74 (s, 3H), 1.40 (s, 9H); LC-MS: Major component: m/z 269/270 (acylium ion), 363/365 (M+H), 385/387 (M+Na); Rt=2.95 min. The crude product was used without purification.

reactant | 3-bromo-5-tert-butyl-6-hydroxy-2-methyl-benzoic acid | BrC=1C(=C(C(=O)O)C(=C(C1)C(C)(C)C)O)C | C12H15BrO3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Bromo-5-tert-butyl-6-hydroxy-2-methyl-benzoic acid phenyl ester | C1(=CC=CC=C1)OC(C1=C(C(=CC(=C1O)C(C)(C)C)Br)C)=O | C18H19BrO3
